US04229443
C. N-thioformyl-2-(3'-azidopropyl)-piperidine
To a solution of 2-(3'-azidopropyl)-piperidine (1.8 g) in ether (10 ml) was added ethyl thioformate (1.5 ml). The solution was kept at 4° C. overnight and evaporated to leave an oil which was purified by chromatograpy on silica gel. The IR-spectrum (CHCl3) showed strong bands at 2950, 2100, 1485, 1445 and 1250 cm-1.

reactant | 2-(3'-azidopropyl)-piperidine | 1.8 g | N(=[N+]=[N-])CCCC1NCCCC1 | C8H16N4
reactant | ethyl thioformate | 1.5 ml | C(=S)OCC | C3H6OS
solvent | ether | 10 ml | CCOCC | C4H10O
product | N-thioformyl-2-(3'-azidopropyl)-piperidine | C(=S)N1C(CCCC1)CCCN=[N+]=[N-] | C9H16N4S
